US05374752
19.3 g (511 mmol) of NaBH4 were added to a solution of 78.5 g (341mmol) of the isomer mixture 3/3a in 700 ml of a solvent mixture of tetrahydrofuran/analytical grade methanol (2:1) at room temperature. After the mixture had been stirred at room temperature for 2 hours, 120-130 mL of half-concentrated HC1 were added, and the mixture was extracted with ether. The combined organic phases were dried with Na2SO4. The residue which remained after the solvent had been stripped off was taken up in 500 ml of methylene chloride, and the mixture was heated under reflux with 6.5 g (34mmol) of p-toluenesulfonic acid for 15 minutes. The residue which remained after the solvent had been stripped off was chromatographed on 1.5 kg of silica gel 60.56 g of the isomer mixture 4/4a were able to be isolated in the form of a colorless oil with a mobile phase mixture of hexane/diisopropyl ether 20:1. The overall yield was 86%.

reactant | NaBH4 | 511 mmol, 19.3 g | [BH4-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | p-toluenesulfonic acid | 34mmol, 6.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methanol | CO | CH4O
product | hexane diisopropyl ether | yield was 86% | CCCCCC.C(C)(C)OC(C)C | InChI=1S/C6H14O.C6H14/c1-5(2)7-6(3)4;1-3-5-6-4-2/h5-6H,1-4H3;3-6H2,1-2H3
